US08084448B2
E. {(E)-3-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-1,1-dimethylallyl}-carbamic Acid Tert-butyl Ester
To a solution of ((E)-3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-1,1-dimethylallyl)-carbamic acid tert-butyl ester (150 mg, 0.2 mmol) in DMF (3 mL) is added CsF (83 mg, 0.53 mmol) and the mixture is stirred at 60° C. for 3 h. The solvent is removed under reduced pressure and the residue is purified by flash chromatography using 10-20% MeOH/EtOAc as eluent to give the title compound as a solid.

reactant | ((E)-3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-1,1-dimethylallyl)-carbamic acid tert-butyl ester | 0.2 mmol, 150 mg | C(C)(C)(C)OC(NC(\C=C\C1=CC(=C(C=C1)N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)OCC1=CC=CC=C1)(C)C)=O | C30H43N3O6SSi
reactant | CsF | 0.53 mmol, 83 mg | [F-].[Cs+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | {(E)-3-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-1,1-dimethylallyl}-carbamic Acid Tert-butyl Ester | C(C)(C)(C)OC(NC(\C=C\C1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)OCC1=CC=CC=C1)(C)C)=O | C25H31N3O6S
